US07851471B2
1,4-dimethyl-2-hydroxymethyl piperazine (1.00 g, 6.94 mmol) was dissolved in DCM (50 mL) at room temperature and NMM (0.74 g, 7.29 mmol) was added. The reaction mixture was cooled to 0° C. and 4-nitrophenylchloroformate (1.4 g, 6.94 mmol) was added. The reaction mixture was stirred at room temperature for 4 h and then divided into two equal volumes. To one portion was added DIPEA (1.35 g, 10.4 mmol), 1-benzyl piperazine (0.61 g, 3.47 mmol) and the reaction mixture was stirred for 4 h. The solvents were removed in vacuo and the residue was partitioned between EtOAc (300 mL) and 1.0M aq NaOH solution (100 mL). The organic layer was washed with 1.0M aq NaOH solution (5×100 mL), brine (100 mL), dried (MgSO4) and the solvents were removed in vacuo. The residue was dissolved in DCM (100 mL) and isocyanate resin was added, the reaction mixture was shaken for 16 h, filtered and the solvents were removed in vacuo. The residue was purified by reverse phase column chromatography (LiChroprep RP-18, 40-63 μm, 460×26 mm (100 g), 30 mL/min, gradient 0% to 30% (over 88 min) MeOH in water with 1% formic acid). The residue was de-salted using K2CO3 in DCM to give (1,4-dimethylpiperazin-2-yl)methyl 4-benzylpiperazine-1-carboxylate (0.32 g, 26.3%) as a light yellow oil.

reactant | 1,4-dimethyl-2-hydroxymethyl piperazine | 6.94 mmol, 1.00 g | CN1C(CN(CC1)C)CO | C7H16N2O
reactant | NMM | 7.29 mmol, 0.74 g | CN1CCOCC1 | C5H11NO
reactant | 4-nitrophenylchloroformate | 6.94 mmol, 1.4 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | DIPEA | 10.4 mmol, 1.35 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-benzyl piperazine | 3.47 mmol, 0.61 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (1,4-dimethylpiperazin-2-yl)methyl 4-benzylpiperazine-1-carboxylate | 0.32 g, 26.3% | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OCC1N(CCN(C1)C)C | C19H30N4O2
